### PR TITLE
Adding not_eqfunP

### PR DESCRIPTION
**Pull request by jouvelot**
##### Motivation for this change

This small lemma, which I needed, may be useful in fintype.v.

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -984,6 +984,13 @@ Lemma eqfun_inP D f1 f2 :
   reflect {in D, forall x, f1 x = f2 x} [forall (x | x \in D), f1 x == f2 x].
 Proof. exact: (forall_inPP _ (fun=> eqP)). Qed.
 
+Lemma not_eqfunP f1 f2 : reflect (~ (forall x, f1 x = f2 x)) (~~ [forall x, f1 x == f2 x]).
+Proof.
+apply: Bool.iff_reflect. 
+split; first by apply: contra_notN => /eqfunP. 
+by apply: contraNnot=> /eqfunP.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/fintype.v:992]:
```suggestion
Lemma not_eqfunP f1 f2 : reflect (~ (forall x, f1 x = f2 x)) (~~ [forall x, f1 x == f2 x]).
Proof.
apply/(iffP idP); first by apply: contraNnot => /eqfunP.
by apply: contra_notN => /eqfunP.
Qed.
```

**Review by proux01 — APPROVED** [review]
That indeed seems useful.

**Comment by jouvelot** [comment]
For quantifier completeness, maybe we could add the related lemma:
```
Lemma not_exists_eqP f1 f2 : reflect (~ (exists x, f1 x = f2 x)) (~~ [exists x, f1 x == f2 x]).
```
although I'm not sure there is a use case for it.

**Comment by proux01** [comment]
In MathComp, we try when adding a lemma to also add lemmas of the same "family", so that would make sense, even if we don't see a use case (yet).

**Comment by ggonthier** [comment]
I'm a little curious about the use case for such lemmas. In principle, they should not be needed, as contrapositives for `reflect` are intended to be covered by the `introN` and `elimN` view hints, i.e., `move/eqfunP` should work the same as `move/not_eqfunP`, unless there's a double negation, as in `~ ~ (f1 =1 f2) -> ...` (was that the issue?). Direct application,
as in `not_eqfunP (neq_fg : ~~ [forall x, f x == g x])` will also work, but the `elimN` hint must be given explicitly (as in `elimN eqfunP neq_fg`), since the default (coercion) is ` elimT`.

**Comment by jouvelot** [comment]
Oh, great! I didn't know that reflection would also work "past" the negation operator. In this case, my PR can be discarded, unless we want to keep for the double negation, as mentioned by Georges.

**Comment by proux01** [comment]
Thanks!
